US08283353B2
4′-({4-[cis-4-(4-{[tert-butyl(dimethyl)silyl]oxy}phenoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
4′-{[4-(trans-4-Hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.46 g), 4-{[tert-butyl(dimethyl)silyl]oxy}phenol (0.49 g) and triphenylphosphine (0.29 g) were dissolved in tetrahydrofuran (2 mL), a solution of diisopropyl azodicarboxylate (0.58 mL, 1.9 M toluene solution) in tetrahydrofuran (1 mL) was added dropwise at 0° C., and the mixture was stirred at room temperature for 45 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as an oily compound (0.31 g, 47%).

reactant | 4′-{[4-(trans-4-Hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.46 g | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C28H29N5O2
reactant | 4-{[tert-butyl(dimethyl)silyl]oxy}phenol | 0.49 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)O | C12H20O2Si
reactant | triphenylphosphine | 0.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.9 M, 0.58 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4′-({4-[cis-4-(4-{[tert-butyl(dimethyl)silyl]oxy}phenoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | [Si](C)(C)(C(C)(C)C)OC1=CC=C(O[C@H]2CC[C@H](CC2)N2C=3N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CN3)C=C1 | C40H47N5O3Si
